US06479524B1
c. rac-N-(4-bromo-2-ethoxycarbonylmethyl-5-methyl-benzoyl)-2-methyl-pyrrolidine
2.2 g (6.85 mmol) of O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate, 2.41 ml (13.9 mmol) of N,N-diisopropylethylamine and 0.27 g (2.0 mmol) of 1-hydroxy-1H-benzotriazole are added successively to a solution of 1.9 g (6.31 mmol) of 4-bromo-2-ethoxycarbonylmethyl-5-methyl-benzoic acid in 660 ml of tetrahydrofuran/H2O (9:1). After 10 minutes' stirring, 0.59 g (6.94 mmol) of rac-2-methyl-pyrrolidine is added, the mixture is stirred for another 19 hours and then diluted with 200 ml of ethyl acetate. The solution obtained is washed with 14% NaCl solution and extracted 2× with ethyl acetate. The combined organic phases are washed with 14% NaCl solution and dried with Na2SO4. After removal of the solvent, by distillation, and flash chromatography (silica gel; methylene chloride/ethanol=98:2) the desired compound is obtained.

reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 6.85 mmol, 2.2 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 13.9 mmol, 2.41 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxy-1H-benzotriazole | 2.0 mmol, 0.27 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-bromo-2-ethoxycarbonylmethyl-5-methyl-benzoic acid | 6.31 mmol, 1.9 g | BrC1=CC(=C(C(=O)O)C=C1C)CC(=O)OCC | C12H13BrO4
reactant | rac-2-methyl-pyrrolidine | 6.94 mmol, 0.59 g | CC1NCCC1 | C5H11N
solvent | tetrahydrofuran H2O | 660 ml | O1CCCC1.O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | rac-N-(4-bromo-2-ethoxycarbonylmethyl-5-methyl-benzoyl)-2-methyl-pyrrolidine | BrC1=CC(=C(C(=O)N2C(CCC2)C)C=C1C)CC(=O)OCC | C17H22BrNO3
